US06087480
0.01 g of ammonium vanadate and 8 g of aluminium oxide granules containing 0.5% by weight of metallic platinum and having a particle size of 3.2 mm (from Acros Organics) are added to a suspension consisting of 200 ml of water and 21.4 g of 5-chloro-6-nitrobenzimidazolone. After displacing the air with nitrogen, the latter is replaced by hydrogen at atmospheric pressure and the suspension is stirred at 65° C. At a hydrogen absorption of 85% of theory, another 50 ml of water are added to improve the stirrability and the mixture is then stirred at the same temperature under a hydrogen atmosphere for a total of 98 hours. During this time, 97% of the theoretical amount of hydrogen, based on 5-chloro-6-nitrobenzimidazolone, is absorbed. The resulting suspension is then sieved through a sieve having a mesh width of 1 mm. The material remaining on the sieve is washed with 50 ml of water and the combined aqueous phases are then filtered through a paper filter and washed with 100 ml of water. Drying at 80° C. under reduced pressure (125 mbar) gives 17.5 g (95%) of 5-amino-6-chlorobenzimidazolone. Only traces of 5-aminobenzimidazolone can be found in the NMR.

reactant | aluminium oxide | 8 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | 5-chloro-6-nitrobenzimidazolone | 21.4 g | ClC1=CC=2C(=NC(N2)=O)C=C1[N+](=O)[O-] | C7H2ClN3O3
reactant | hydrogen | [H][H] | H2
catalyst | ammonium vanadate | 0.01 g | N.O[V](=O)=O
catalyst | platinum | [Pt] | Pt
solvent | water | 200 ml | O | H2O
product | 5-amino-6-chlorobenzimidazolone | 17.5 g, 95% | NC1=CC=2C(=NC(N2)=O)C=C1Cl | C7H4ClN3O
